US08440838B2
Production of 1,3-dimethyl-4-(3-trifluoromethyl-1H-1,2,4-triazol-1-yl)benzene
In a 50-ml eggplant flask provided with a magnetic stirrer were placed 1.37 g (10 mmol) of 3-trifluoromethyl-1H-1,2,4-triazole, 1.32 g (3.33 mmol) of 2,4-dimethylphenylboroxine, 64 mg (1 mmol) of a copper powder, 0.8 g (10 mmol) of pyridine and then 5 ml of N,N-dimethylformamide. The mixture was stirred at 50° C. for 4 hours. Thereto were added 30 ml of ethyl acetate and 3% hydrochloric acid to give rise to phase separation. The aqueous phase was extracted with 30 mol of ethyl acetate. The ethyl acetate phase was washed with water and then with a saturated aqueous sodium chloride solution. The ethyl acetate phase was dried over anhydrous sodium sulfate and then subjected to vacuum distillation to distill off ethyl acetate to obtain a title compound as 2.3 g of a crystal. Yield: 95%

reactant | 3-trifluoromethyl-1H-1,2,4-triazole | 10 mmol, 1.37 g | FC(C1=NNC=N1)(F)F | C3H2F3N3
reactant | 2,4-dimethylphenylboroxine | 3.33 mmol, 1.32 g | CC1=C(C=CC(=C1)C)B1OBOBO1 | C8H11B3O3
reactant | pyridine | 10 mmol, 0.8 g | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
catalyst | copper | 1 mmol, 64 mg | [Cu] | Cu
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 mol | C(C)(=O)OCC | C4H8O2
product | 1,3-dimethyl-4-(3-trifluoromethyl-1H-1,2,4-triazol-1-yl)benzene | Yield: 95% | CC1=CC(=C(C=C1)N1N=C(N=C1)C(F)(F)F)C | C11H10F3N3
